US04116963
To 23 parts of 1,4-dioxa-8-azaspiro[4.5]decane in 300 parts by volume of methanol is added 15 parts of ethylene oxide in methanol. The mixture is stirred at -20° C. for 3 hours and allowed to warm to room temperature. The solvent is removed under reduced pressure and the residue distilled to afford N-hydroxyethyl-1,4-dioxa-8-azaspiro[4.5]-decane. The corresponding tosylate is formed by reacting 16 parts of the alcohol in 75 parts of dry pyridine with 21 parts of p-toluenesulfonylchloride. The mixture is stirred at 5° C. overnight and then poured into 300 parts by volume of ice water. The resulting solid is collected by filtration to afford the tosylate.

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | O1CCOC12CCNCC2 | C7H13NO2
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | methanol | CO | CH4O
product | N-hydroxyethyl-1,4-dioxa-8-azaspiro[4.5]-decane | OCCN1CCC2(OCCO2)CC1 | C9H17NO3
